US07951816B2
Methyl 4-[(5-hydroxypentyl)oxy]benzoate (Compound 24)
To a solution of methyl p-hydroxybenzoate (3.38 g), 1,5-pentanediol (2.30 g) and triphenylphosphine (5.96 g) in tetrahydrofuran (100 mL), diethylazodicarboxylate (2.2N toluene solution, 10 mL) was slowly added under ice cooling. The reaction mixture was stirred under ice cooling for 16 hours. The reaction mixture was concentrated and the residue was washed with n-hexane-ethyl acetate solution (n-hexane:ethyl acetate=1:1). The reaction mixture was concentrated and then purified by silica gel chromatography (n-hexane:ethyl acetate=64:36→45:55) to obtain the title compound (3.58 g) having the following physical properties.

reactant | methyl p-hydroxybenzoate | 3.38 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | 1,5-pentanediol | 2.30 g | C(CCCCO)O | C5H12O2
reactant | triphenylphosphine | 5.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | diethylazodicarboxylate | 2.2N, 10 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | Methyl 4-[(5-hydroxypentyl)oxy]benzoate | 3.58 g | OCCCCCOC1=CC=C(C(=O)OC)C=C1 | C13H18O4
